US09290459B1
tert-Butyl (4-Cyano-2-(methylsulfonyl)phenyl)(phenylsulfonyl)methylcarbamate
Formic acid (6.2 mL, 164 mmol) is added to a solution of tert-butyl carbamate (3.05 g, 26.0 mmol), 4-formyl-3-(methylsulfonyl)benzonitrile (5.44 g, 26.0 mmol) and sodium benzenesulfinate (4.27 g, 26.0 mmol) in a mixture of tetrahydrofuran (10 mL) and water (25 mL), and the mixture is stirred at room temperature for 4 days. Water (30 mL) is added, and the precipitate is filtered, washed with water and acetonitrile and dried Yield: 5.10 g. ESI mass spectrum: [M+H]+=451; Retention time HPLC: 0.59 min (X012_S01).

reactant | Formic acid | 164 mmol, 6.2 mL | C(=O)O | CH2O2
reactant | tert-butyl carbamate | 26.0 mmol, 3.05 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | 4-formyl-3-(methylsulfonyl)benzonitrile | 26.0 mmol, 5.44 g | C(=O)C1=C(C=C(C#N)C=C1)S(=O)(=O)C | C9H7NO3S
reactant | sodium benzenesulfinate | 26.0 mmol, 4.27 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 25 mL | O | H2O
solvent | Water | 30 mL | O | H2O
product | tert-Butyl (4-Cyano-2-(methylsulfonyl)phenyl)(phenylsulfonyl)methylcarbamate | C(#N)C1=CC(=C(C=C1)N(C(OC(C)(C)C)=O)CS(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C | C20H22N2O6S2
